US08182718B2
Heo=2,2′-Ethane-1,2-diylbis(1H-benzimidazole)
To a flask were added 3 g of 1,2-phenylene diamine, 1.6 g of succinic acid, and 30 ml of 4M hydrochloric acid. The mixture was heated to reflux under nitrogen for 22 hours, and then cooled to 22 C. The solid was filtered, washed with a little water and dissolved in a warm mixture of 30 ml of acetone and 40 ml of water. Enough ammonium hydroxide was added to basify the mixture, and after cooling to 22 C, the product was filtered and washed with 20 ml of 50% acetone and dried, resulting in a light pink solid.

reactant | 1,2-phenylene diamine | 3 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | succinic acid | 1.6 g | C(CCC(=O)O)(=O)O | C4H6O4
solvent | hydrochloric acid | 4M, 30 ml | Cl | ClH
product | 2,2′-Ethane-1,2-diylbis(1H-benzimidazole) | C(CC1=NC2=C(N1)C=CC=C2)C2=NC1=C(N2)C=CC=C1 | C16H14N4
